US08138181B2
Preparation of (trans)-benzyl 4-f2-chloroquinolin-8-yloxy)-3-fluoropiperidine-1-carboxylate: To a 0° C. solution of 4 mL 1:1 DMF:toluene was added neat POCl3 (0.360 ml, 3.94 mmol). The reaction mixture was warmed to ambient temperature, stirred 10 minutes, and then cooled to 0° C. A solution of 8-((trans)-1-(benzyloxycarbonyl)-3-fluoropiperidin-4-yloxy)quinoline 1-oxide (1.04 g, 2.62 mmol) in 1.2 mL 1:1 DMF:toluene was added dropwise by syringe to the reaction mixture, and the reaction mixture was heated in a 110° C. sand bath and stirred for 1 hours. The reaction mixture was cooled to ambient temperature and added dropwise to a stirring ice/saturated NaHCO3 mixture. The mixture was stirred 20 minutes, then extracted with DCM, and the combined extracts were dried (Na2SO4), filtered, and concentrated. The crude was purified on silica gel (Biotage 40S, loaded with 12:1hexanes:ethyl acetate, flushed 300 mL, then gradient to 5:1 hexanes:ethyl acetate) to give (trans)-benzyl 4-(2-chloroquinolin-8-yloxy)-3-fluoropiperidine-l-carboxylate (0.563 g, 1.36 mmol, 51.7% yield) as a syrup. MS APCI (+) m/z 415 (M+1) detected.

reactant | 3-fluoropiperidine-1-carboxylate | FC1CN(CCC1)C(=O)[O-]
reactant | POCl3 | 3.94 mmol, 0.360 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 8-((trans)-1-(benzyloxycarbonyl)-3-fluoropiperidin-4-yloxy)quinoline 1-oxide | 2.62 mmol, 1.04 g | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@@H](CC1)OC=1C=CC=C2C=CC=[N+](C12)[O-])F | C22H21FN2O4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | DMF | CN(C)C=O | C3H7NO
product | (trans)-benzyl 4-(2-chloroquinolin-8-yloxy)-3-fluoropiperidine-l-carboxylate | 1.36 mmol, 0.563 g, 51.7% yield | ClC1=NC2=C(C=CC=C2C=C1)O[C@H]1[C@@H](CN(CC1)C(=O)OCC1=CC=CC=C1)F | C22H20ClFN2O3
